US07223788B2
1-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]-3-(4-phenoxyphenyl)urea
Dimethylpyrrolidin-3-ylamine was reacted with 4-fluoronitrobenzene, the resulting nitro compound was reduced with hydrogen and finally the aniline was reacted with CDI and 4-phenoxyaniline by method A, B and C. This resulted in the product with the molecular weight of 416.53 (C25H28N4O2); MS (ESI): 417 (M+H+).

reactant | Dimethylpyrrolidin-3-ylamine | CN(C1CNCC1)C | C6H14N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrogen | [H][H] | H2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
product | 1-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]-3-(4-phenoxyphenyl)urea | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C | C25H28N4O2
